US09403987B2
Step 7.1: N,N,N-Trimethyl-N-[3-(tris-trimethylsiloxy-silyl)-propyl]ammonium iodide (35)
0.8 g of 3-aminopropyltris(trimethylsiloxy)silane, 1.8 g of methyl iodide and 1.35 g of sodium carbonate are added to 50 ml of dimethylformamide. The reaction mixture is stirred for 3 hours at room temperature. The solvent is evaporated and the residue taken in methylene chloride and water. The organic phase is then washed with water, dried and evaporated whereby compound (35) is obtained; 1H-NMR (ppm, CDCl3): 3.45-3.32 11H m, 1.68-1.58 2H m, 0.39 2H t, 0.00 27H s.

reactant | 3-aminopropyltris(trimethylsiloxy)silane | 0.8 g | NCCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C12H35NO3Si4
reactant | methyl iodide | 1.8 g | CI | CH3I
reactant | sodium carbonate | 1.35 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N,N,N-Trimethyl-N-[3-(tris-trimethylsiloxy-silyl)-propyl]ammonium iodide | [I-].C[N+](CCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | InChI=1S/C15H42NO3Si4.HI/c1-16(2,3)14-13-15-23(17-20(4,5)6,18-21(7,8)9)19-22(10,11)12;/h13-15H2,1-12H3;1H/q+1;/p-1
